US07238808B2
4-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.7) (82 mg, 0.25 mmol) and 4-bromo-benzenesulfonamide (59 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (60 mg, 50%). MS (ISN) 480.9 [(M−H)−]; mp 228–230° C.

reactant | 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N3
reactant | 4-bromo-benzenesulfonamide | 0.25 mmol, 59 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F | C24H17F3N4O2S
